US07101898B2
5.52 g of (E)-3-(3-cyano-4-fluorophenyl)acrylic acid was synthesized as described for (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid, using 4-fluoro-3-cyanobenzaldehyde (commercially available at Aldrich) instead of methanesulfonic acid 4-formylphenyl ester.

reactant | (E)-3-(4-(methanesulfonyloxy)phenyl)acrylic acid | CS(=O)(=O)OC1=CC=C(C=C1)/C=C/C(=O)O | C10H10O5S
reactant | 4-fluoro-3-cyanobenzaldehyde | FC1=C(C=C(C=O)C=C1)C#N | C8H4FNO
reactant | methanesulfonic acid 4-formylphenyl ester | C(=O)C1=CC=C(C=C1)OS(=O)(=O)C | C8H8O4S
product | (E)-3-(3-cyano-4-fluorophenyl)acrylic acid | 5.52 g | C(#N)C=1C=C(C=CC1F)/C=C/C(=O)O | C10H6FNO2
